Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:5].[O:1]=[C:2]([C:3][H:4])[C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[H:13]>>[O:1]=[C:2]([C:3]([H:4])[H:5])[C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[H:13],-4.944087875
[C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]([H:11])[H:12].[H:1][O:2][C:3]#[C:4]>>[H:1][O:2][C:3]#[C:4][C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]([H:11])[H:12],-5.13738619293
[O:1][O:2][C:3]([H:4])([H:5])[C:6](=[C:7][H:8])[C:9]([H:10])([H:11])[H:12]>>[H:8].[O:1][O:2][C:3]([H:4])([H:5])[C:6](=[C:7])[C:9]([H:10])([H:11])[H:12],3.94356790147
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])/[C:7]([H:8])=[C:9]/[O:10][C:11]([H:12])([H:13])[H:14]>>[H:14].[H:1][C:2]([H:3])[C:4]([H:5])([H:6])/[C:7]([H:8])=[C:9]/[O:10][C:11]([H:12])[H:13],4.14450828177
[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[H:12]>>[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[O:8][C:9]([H:10])([H:11])[H:12].[H:7],1.94855568018
[C:11][H:12].[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[O:8][C:9][H:10]>>[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])=[C:11][H:12],-7.2248975618100015
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17]>>[C:3]([H:4])([H:5])=[C:6]([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17].[H:1][O:2],2.70990006657
[H:1][O:2][C:3](=[C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1][O:2][C:3](=[C:4][H:5])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:6],5.14715795129
[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11][O:12]>>[H:1][C:2]1=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11][O:12]1,-2.53808168034
[O:1][O:2][C:3](=[C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[H:10]>>[H:6].[O:1][O:2][C:3](=[C:4][H:5])[C:7]([H:8])([H:9])[H:10],5.2080052156
[C:12]([H:13])([H:14])[H:15].[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])[H:11]>>[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-3.91513018755
[H:1][O:2][C:3]1=[C:4]([H:5])[C:6]([H:7])([H:8])[O:9]1>>[H:1][O:2][C:3](=[C:4][H:5])[O:9][C:6]([H:7])[H:8],3.23870976011
[H:1][C:2]=[C:3]([O:4][C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14]>>[C:9]([H:10])([H:11])=[C:12]([H:13])[H:14].[H:1][C:2]#[C:3][O:4][C:5]([H:6])([H:7])[H:8],-1.14177576623
[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11][C:12]([H:13])([H:14])[H:15]>>[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])/[C:8]([H:9])=[C:11]/[C:12]([H:13])([H:14])[H:15].[H:10],1.4652327215799998
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[O:8][C:9][C:10]([H:11])([H:12])[H:13]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6][H:7].[O:8]=[C:9][C:10]([H:11])([H:12])[H:13],1.58532287304
[C:9]([H:10])([H:11])[H:12].[H:1][C:2]([H:3])[O:4][C:5]=[C:6]([H:7])[H:8]>>[H:1][C:2]([H:3])[O:4][C:5](=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12],-4.74487871981
[O:1]=[C:2]([H:3])[C:4]([H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])[H:12]>>[H:9].[O:1]=[C:2]([H:3])[C:4]([H:5])[O:6][C:7]([H:8])=[C:10]([H:11])[H:12],1.63643455192
[O:1]=[C:2]([O:3][C:4]#[C:5][H:6])[C:7]([H:8])([H:9])[H:10]>>[C:4]#[C:5][H:6].[O:1]=[C:2]([O:3])[C:7]([H:8])([H:9])[H:10],4.94955657933
[H:14].[H:1][C:2]#[C:3][C@@:4]([H:5])([O:6][H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13]>>[H:1][C:2]#[C:3][C@@:4]([H:5])([O:6][H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-4.573826373869999
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9][C:10]=[C:11]([H:12])[H:13]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[H:8].[O:9]=[C:10]=[C:11]([H:12])[H:13],-0.190801163671
[O:1][O:2][C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13]>>[C:8]([H:9])([H:10])=[C:11]([H:12])[H:13].[O:1][O:2][C:3][C:4]([H:5])([H:6])[H:7],2.13426942907
[C:2]#[C:3][C:6]([H:7])([H:8])[C:9]([H:10])[H:11].[H:1][C:5]#[C:4]>>[H:1][C:2]#[C:3][C:4]#[C:5][C:6]([H:7])([H:8])[C:9]([H:10])[H:11],-7.39577339736
[H:1][C:2][O:3][C:4][C@@:5]([H:6])([O:7][H:8])[C:9]([H:10])([H:11])[H:12]>>[H:1][C:2].[O:3]=[C:4][C@@:5]([H:6])([O:7][H:8])[C:9]([H:10])([H:11])[H:12],2.73503764946
[H:1][C:2]#[C:3][O:4][C:5]#[C:7][C:8]([H:9])[H:10].[H:6]>>[H:1][C:2]#[C:3][O:4][C:5]([H:6])=[C:7]=[C:8]([H:9])[H:10],-4.51164761768
[H:1][C:2](=[C:3]([H:4])[H:5])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:6]>>[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-1.98566462181
[H:1][O:2]/[C:3]([H:4])=[C:6]/[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:5]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-1.7071749493
[O:1]=[C:2]=[C:3]/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])[H:10]>>[H:10].[O:1]=[C:2]=[C:3][C:4]([H:5])[C:6]([H:7])=[C:8][H:9],5.03651430464
[O:1]=[C:2]=[C:3]/[C:4]([H:5])=[C:6](\[H:7])[O:8][H:9]>>[O:1]=[C:2]1[C:3][C:4]([H:5])[C@:6]1([H:7])[O:8][H:9],1.33754581206
